US04263437
A mixture of 400 mg of (5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]thiepin-8-yl)-acetic acid, 800 mg of hydrazine hydrate and 30 ml of ethanol was refluxed for 3 hours. The solvent was distilled off to obtain a solid substance, to which were added 1 g of sodium hydroxide and 8 ml of diethylene glycol, and the mixture was stirred under a nitrogen atmosphere at 135° C. for 1.5 hours. After cooling, ice water was added to the mixture, and the resulting mixture was acidified with acetic acid and extracted with chloroform. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was removed by distillation to obtain an oil, which was chromatographed over silica gel and eluted with chloroform ethanol (100/1) to obtain a powder. This was recrystallized from 290 mg (yield: 76%) of (5,6-dihydro benzo[b]pyrido[3,2-f]thiepin-8-yl)-acetic acid as colorless needle crystals.

reactant | (5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]thiepin-8-yl)-acetic acid | 400 mg | O=C1C2=C(SC3=C(C1)C=CC=N3)C=CC(=C2)CC(=O)O | C15H11NO3S
reactant | hydrazine hydrate | 800 mg | O.NN
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethylene glycol | 8 ml | C(COCCO)O | C4H10O3
product | (5,6-dihydro benzo[b]pyrido[3,2-f]thiepin-8-yl)-acetic acid | 290 mg, yield: 76% | N1=CC=CC=2CCC3=C(SC21)C=CC(=C3)CC(=O)O | C15H13NO2S
